US07253318B2
A solution of 10 g of hydroquinone in 90 ml of acetonitrile was treated with 8.58 g of 4-fluorobenzylbromide and 15.7 g of potassium carbonate. The mixture was heated to 90° C. and stirred during 18 h. For the working-up, the reaction mixture was cooled to room temperature and treated with cold water. The solid material that has formed was filtered, washed twice with cold water and dried. For purification and separation from the bis-ether, the crude material was chromatographed on silica gel using a 4:1 mixture of heptane and ethyl acetate as the eluent. There were obtained 4.05 g (27% of theory) of 4-(4-fluoro-benzyloxy)-phenol as a white solid; MS: m/e=218 (M)+.

reactant | hydroquinone | 10 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | 4-fluorobenzylbromide | 8.58 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | potassium carbonate | 15.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetonitrile | 90 ml | C(C)#N | C2H3N
product | 4-(4-fluoro-benzyloxy)-phenol | 4.05 g, 27% | FC1=CC=C(COC2=CC=C(C=C2)O)C=C1 | C13H11FO2
